US04282337
Operating with a reactor modified with respect to that used for the synthesis of POL 1, 2, 3 and 4, an isobutylene-1,3,5-hexatriene copolymer of low molecular weight was synthesised. 60 cm3 of methycyclohexane, 20 cm3 of methylene chloride, 28.4 g of isobutylene and 0.9 g of 1,3,5-hexatriene were fed, and the reaction was carried out at -10° C. 0.8 moles of AlEtCl2 were then introduced, and the mixture polymerised for fifteen minutes. 8.8 g of copolymer were isolated having a molecular weight of 10,000 and a conjugated unsaturation content of 0.38 moles/kg. By reaction with maleic anhydride, a functionalised polymer was obtained with 0.38 moles/kg of anhydride groups.

reactant | methycyclohexane | 60 cm3 | CC1CCCCC1 | C7H14
reactant | isobutylene | 28.4 g | CC(C)=C | C4H8
reactant | 1,3,5-hexatriene | 0.9 g | C=CC=CC=C | C6H8
reactant | AlEtCl2 | 0.8 moles | [Al](CC)(Cl)Cl
solvent | methylene chloride | 20 cm3 | C(Cl)Cl | CH2Cl2
product | isobutylene 1,3,5-hexatriene | CC(C)=C.C=CC=CC=C | InChI=1S/C6H8.C4H8/c1-3-5-6-4-2;1-4(2)3/h3-6H,1-2H2;1H2,2-3H3
